US05932766
4-Amino-1-(N,N-dibenzyl)amino-2-oxo-5-phenyl-pent-3-ene
The title compound was prepared from N,N-dibenzyl-glycine benzyl ester, 54 mmole, and 3.3 mL, 64 mmole of acetonitrile. Following the procedure described in Example 2 the ester and nitrile mixture was added to 5.5 g, 127 mmole of sodium amide in MTBE. After solvent removal, benzyl magnesium chloride (PhCH2MgCl 145 mmole) was added following the procedure in Example 2. The resulting enamine was purified by chromatography, following the procedure described in Example 4. The yield of enamine was 22.3 g (50 mmole, 78%).

reactant | N,N-dibenzyl-glycine benzyl ester | C(C1=CC=CC=C1)OC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C23H23NO2
reactant | acetonitrile | 64 mmole, 3.3 mL | C(C)#N | C2H3N
reactant | sodium amide | 127 mmole, 5.5 g | [NH2-].[Na+]
reactant | benzyl magnesium chloride | 145 mmole | C(C1=CC=CC=C1)[Mg]Cl
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 4-Amino-1-(N,N-dibenzyl)amino-2-oxo-5-phenyl-pent-3-ene | NC(=CC(CN(CC1=CC=CC=C1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1 | C25H26N2O
